US05643878
1d) 2(R)-[1(S)-(Boc-amino)-2-phenylethyl]-oxirane
A solution of 9.74 g of m-chloroperbenzoic acid in 50 ml of methylene chloride is added over the course of 15 min at from 0° to 5° C. to a solution of 1.45 g of N-Boc-1-phenyl-3-buten-2(S)-amine in 20 ml of methylene chloride. The batch is stirred for 18 h at that same temperature and is then stirred for a further 8 h, with heating to RT, to complete the reaction and poured onto ice-cold 10% sodium carbonate solution. The aqueous phase is extracted three times with ether. The combined organic phases are washed in succession three times with 10% sodium sulfite solution, three times with saturated sodium hydrogen carbonate solution, with sodium thiosulfate solution and with brine and dried over sodium sulfate. After concentrating the solvents, the title compound is purified by column chromatography (SiO2, hexane/ethyl acetate: 4/1) and recrystallised from hexane. M.p. 51°-52° C.; TLC Rf (C)=0.33; FAB-MS (M+H)+=264.

reactant | m-chloroperbenzoic acid | 9.74 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-Boc-1-phenyl-3-buten-2(S)-amine | 1.45 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C=C | C15H21NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2(R)-[1(S)-(Boc-amino)-2-phenylethyl]-oxirane | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@H]1OC1 | C15H21NO3
